Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Detrol / Indocin
 
Attending: ___.
 
Chief Complaint:
Dysuria, Anorexia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of pelvic floor dysfunction, possible 
interstitial cystitis, who presents for dysuria and anorexia. 
She was in her usual state of health until four days ago, when 
she noted dysuria, decreased appetite, and generalized weakness. 
Her husband has kept track of her intake and she has had only a 
third of a cup of rice since ___. She states she has had 
urinary frequency for the past ___ years and attempts to void 10+ 
times a day, frequently spending 20 minutes on the toilet at a 
time. She does not endorse abdominal pain, fevers, chills, 
nausea or vomiting in this time frame. 
 
In the ED, initial vital signs were: T 98.2 P 85 BP 143/73 RR 18 
O2 sat 95% RA  
- Exam notable for: R CVA tenderness, suprapubic tenderness
- Labs were notable for UA: >182 WBC/lg leuks/neg nit/mod blood, 
lactate 1.2, Na to 131, Cr 0.9, largely normal LFTs (AP 133), no 
leukocytosis  
- Studies performed include CXR: no acute cardiopulm process. 
Blood and urine cultures sent off.
- Patient was given IV ceftriaxone 1 g, 1 L NS 
- Vitals on transfer: T 97.7 HR 73 BP 127/61 RR 16 O2Sat 98% RA

Upon arrival to the floor, the patient feels fatigued and 
sleepy. She denies fevers, chills, night sweats, unintentional 
weight loss, visual changes, headache, shortness of breath, 
dyspnea on exertion, chest pain, abdominal pain, nausea, 
vomiting, muscle weakness, loss of sensation.
 
Review of Systems:  
(+) per HPI  
(-) as above
 
 
Past Medical History:
Interstitial cystitis, history of ___ UTIs
 
Social History:
___
Family History:
Maternal side - Diabetes. Father - passed away at ___ y/o from 
cancer of unclear primary.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals- T 97.8 BP 151/72 HR 84 RR 18 O2Sat 96RA  
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact.  No 
conjunctival pallor or injection, sclera anicteric and without 
injection. Moist mucous membranes, good dentition.  Oropharynx 
is clear.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields.  No wheezes, rhonchi or rales.
BACK: No CVA tenderness. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: ___ strength throughout.  Normal sensation.  

DISCHARGE PHYSICAL EXAM
Vitals- T 98.6 BP 118-151/59-78 HR ___ RR 18 O2Sat 91-95RA  
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic.  No conjunctival pallor or 
injection, sclera anicteric and without injection. Moist mucous 
membranes. Oropharynx is clear.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema
 
Pertinent Results:
ADMISSION LABS
-----------------
___ 08:47AM BLOOD WBC-8.9# RBC-4.58 Hgb-12.6 Hct-38.7 
MCV-85 MCH-27.5 MCHC-32.6 RDW-12.8 RDWSD-39.6 Plt ___
___ 08:47AM BLOOD Neuts-76.1* Lymphs-11.2* Monos-9.7 
Eos-1.2 Baso-0.3 Im ___ AbsNeut-6.73* AbsLymp-0.99* 
AbsMono-0.86* AbsEos-0.11 AbsBaso-0.03
___ 08:47AM BLOOD Plt ___
___ 08:47AM BLOOD Glucose-80 UreaN-26* Creat-0.9 Na-131* 
K-4.9 Cl-94* HCO3-21* AnGap-21*
___ 08:47AM BLOOD ALT-33 AST-38 AlkPhos-133* TotBili-0.7
___ 09:03AM BLOOD Lactate-1.2
___ 08:10AM URINE Color-Yellow Appear-Cloudy Sp ___
___ 08:10AM URINE Blood-MOD Nitrite-NEG Protein-100 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 08:10AM URINE RBC-28* WBC->182* Bacteri-FEW Yeast-NONE 
Epi-0
___ 08:10AM URINE WBC Clm-MANY Mucous-MOD

MICROBIOLOGY
----------------
___ 8:10 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------    16 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

IMAGING
---------
CXR ___ acute cardiopulmonary process.

DISCHARGE/INTERVAL LABS
___ 06:38AM BLOOD WBC-7.3 RBC-4.20 Hgb-11.7 Hct-36.1 MCV-86 
MCH-27.9 MCHC-32.4 RDW-13.1 RDWSD-40.7 Plt ___
___ 06:38AM BLOOD Glucose-80 UreaN-20 Creat-0.8 Na-133 
K-3.5 Cl-97 HCO3-23 AnGap-17
___ 06:38AM BLOOD Calcium-8.8 Phos-3.6 Mg-2.___ y/o F with a history of pelvic floor dysfunction and 
interstitial cystitis, admitted for poor oral intake and urinary 
tract infection. 

#Urinary tract infection: UA with >182 WBC/lg leuks. Patient 
endorsing dysuria prior to admission, now resolved. She is 
afebrile, without leukocytosis, or other systemic symptoms 
making pyelonephritis unlikely. She received Ceftriaxone 1 gram 
in the ED and was transitioned to Bactrim DS BID for 7 day 
course prior to discharge. 
** After discharge, sensitivities returned and E coli was 
resistant to Bactrim.  A presription for ciprofloxacin was 
called in to her pharmacy, and the patient was notified via 
telephone **

CHRONIC AND STABLE ISSUES
#Hyponatremia: Likely hypovolemic hyponatremia in the setting of 
poor po intake x 4 days prior to admission. Received 1 L NS in 
ED with resolution of her low Na. 

#Anorexia: Poor po intake in the days prior to admission, likely 
in the setting of her urinary tract infection. Patient reported 
improvement in appetite prior to discharge.

TRANSITIONAL ISSUES
[]Advise urology referral and workup for urinary frequency. Of 
note, patient reports longstanding history of increased urinary 
frequency (voiding up to 14 times per day) causing disruptive 
lifestyle changes
[]Treating complicated UTI given requirement for inpatient 
admission and systemic symptoms suggestive of possible 
pyelonephritis, started on ciprofloxacin ___ (two days after 
discharge) given resistance to bactrim

#Code Status: Full code 
#Emergency contact/HCP: Husband: H ___, C ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 7 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*12 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Complicated urinary tract infection

Secondary diagnoses: Pelvic floor dysfunction, interstitial 
cystitis with increased urinary frequency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ out of concern for a urinary 
tract infection. You were treated with antibiotics in the ED and 
will be discharged on a seven day course of antibiotics.

If you develop worsening fever, chills, flank pain, or nausea, 
you should return to the ED.

It is very important that you attend your follow-up appointment 
with your PCP (Please call ___ to set up an appointment 
within the week).

It was a pleasure taking care of you!

We wish you the best,

Your ___ Team
 
Followup Instructions:
___